US08067457B2
rel-N-(2-{[(3R,4R)-4-(allyloxy)-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide (97)
The title compound was synthesized in similar fashion to rel-N-[2-({(3R,4R)-4-(benzyloxy)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide, rel-N-(2-{[(3R,4R)-4-hydroxy-[1-tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide was substituted for benzyl rac-(3R,4R)-3-[(tert-butoxycarbonyl)amino]-4-hydroxypyrrolidine-1-carboxylate and allyl bromide was substituted for benzyl bromide. The title compound was isolated as a white solid. 1H-NMR (CDCl3) δ: 1.56 (m, 2H), 1.76 (m, 2H), 2.34-2.48 (m, 2H), 2.80 (m, 2H), 3.30-3.42 (m, 3H), 3.84 (m, 1H), 3.93-4.03 (m, 3H), 4.13 (m, 2H), 4.18 (m, 1H), 4.34 (m, 1H), 5.14 (m, 1H), 5.26 (m, 1H), 5.87 (m, 1H), 6.66 (b, 1H), 7.13 (b, 1H), 7.57 (t, J=7.4 Hz, 1H), 7.76 (d, J=7.6 Hz, 1H), 8.05 (d, J=7.7 Hz, 1H), 8.09 (s, 1H). MS m/z: 456 (M+1).

reactant | rel-N-[2-({(3R,4R)-4-(benzyloxy)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | C(C1=CC=CC=C1)O[C@H]1[C@@H](CN(C1)C1CCN(CC1)C=1C=NC(=CC1)OC)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C32H36F3N5O4
reactant | rel-N-(2-{[(3R,4R)-4-hydroxy-[1-tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | O[C@H]1[C@@H](CN(C1)C1CCOCC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C19H24F3N3O4
reactant | benzyl rac-(3R,4R)-3-[(tert-butoxycarbonyl)amino]-4-hydroxypyrrolidine-1-carboxylate | C(C)(C)(C)OC(=O)NC1CN(CC1O)C(=O)OCC1=CC=CC=C1 | C17H24N2O5
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | rel-N-(2-{[(3R,4R)-4-(allyloxy)-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | C(C=C)O[C@H]1[C@@H](CN(C1)C1CCOCC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C22H28F3N3O4
